US06172057B2
2-(4-Methoxy-benzenesulfonyl)-5-methyl-2-pyridin-3-ylmethyl-hex-4-enoic acid was prepared starting from 2-(4-methoxy-benzenesulfonyl)-5-methyl-2-pyridin-3-ylmethyl-hex-4-enoic acid ethyl ester (4.0 g, 9.5 mmol) dissolved in methanol (50 ml) and 10 N NaOH (30 ml). The resulting reaction mixture was worked up as outlined in Example 9. Yield 3.2 g, 87%; ivory solid; mp 117-119° C.; MS: 390 (M+H)+.

reactant | 2-(4-methoxy-benzenesulfonyl)-5-methyl-2-pyridin-3-ylmethyl-hex-4-enoic acid ethyl ester | 9.5 mmol, 4.0 g | C(C)OC(C(CC=C(C)C)(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C22H27NO5S
solvent | methanol | 50 ml | CO | CH4O
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
product | 2-(4-Methoxy-benzenesulfonyl)-5-methyl-2-pyridin-3-ylmethyl-hex-4-enoic acid | COC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC=C(C)C)CC=1C=NC=CC1 | C20H23NO5S
